US07405231B2
i) 3-(4-Methylsulfanyl-phenyl)-acrylic acid
A mixture of 50.70 g (0.33 mol) 4-methylsulfanyl-benzaldehyde, 39.65 g (0.38 mol) malonic acid 3.25 g (0.04 mmol) piperidine and 150 ml pyridine was kept at reflux temperature until carbon dioxide development ceased (5 h). The reaction mixture was poured into a solution of 750 ml ice water and 190 ml 6N HCl. The precipitate was isolated, washed with water, then with n-heptane and dried at 50° C. Yield: 60.0 g (93%) 3-(4-methylsulfanyl-phenyl)-acrylic acid as a light brown solid melting at 163-165° C.

reactant | 4-methylsulfanyl-benzaldehyde | 0.33 mol, 50.70 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | malonic acid | 0.38 mol, 39.65 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 190 ml | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Methylsulfanyl-phenyl)-acrylic acid | CSC1=CC=C(C=C1)C=CC(=O)O | C10H10O2S
